Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
[Br:3][CH2:2][CH2:1]Br.[CH3:4][O:5][C:6](=[O:7])[c:8]1[cH:9][c:10]([C:11]([F:12])([F:13])[F:14])[n:15][nH:16]1>>[CH2:1]([CH2:2][Br:3])[n:16]1[c:8]([C:6]([O:5][CH3:4])=[O:7])[cH:9][c:10]([C:11]([F:12])([F:13])[F:14])[n:15]1,[CH3:4][O:5][C:6](=[O:7])[c:8]1[cH:9][c:10]([C:11]([F:12])([F:13])[F:14])[n:15][nH:16]1.[Br:101][CH2:1][CH2:2][Br:3]>>[CH2:1]([CH2:2][Br:3])[n:16]1[c:8]([C:6]([O:5][CH3:4])=[O:7])[cH:9][c:10]([C:11]([F:12])([F:13])[F:14])[n:15]1,SN2,"[(16, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[C:1]([NH2:2])[c:3]1[n:4][c:5]2[cH:6][n:7][c:8]([N:9]3[CH2:10][CH2:11][CH:12]([O:13][c:14]4[cH:15][c:16]([F:17])[cH:18][cH:19][c:20]4[Br:21])[CH2:22][CH2:23]3)[n:24][c:25]2[s:26]1>>[C:1](#[N:2])[c:3]1[n:4][c:5]2[cH:6][n:7][c:8]([N:9]3[CH2:10][CH2:11][CH:12]([O:13][c:14]4[cH:15][c:16]([F:17])[cH:18][cH:19][c:20]4[Br:21])[CH2:22][CH2:23]3)[n:24][c:25]2[s:26]1,[O:101]=[C:1]([NH2:2])[c:3]1[n:4][c:5]2[cH:6][n:7][c:8]([N:9]3[CH2:10][CH2:11][CH:12]([O:13][c:14]4[cH:15][c:16]([F:17])[cH:18][cH:19][c:20]4[Br:21])[CH2:22][CH2:23]3)[n:24][c:25]2[s:26]1.[Cl:301][S:302]([Cl:303])=[O:304]>>[C:1](#[N:2])[c:3]1[n:4][c:5]2[cH:6][n:7][c:8]([N:9]3[CH2:10][CH2:11][CH:12]([O:13][c:14]4[cH:15][c:16]([F:17])[cH:18][cH:19][c:20]4[Br:21])[CH2:22][CH2:23]3)[n:24][c:25]2[s:26]1,primary_amide_dehydration,"[(2, [2, 1]), ([1, 101], 302), ([302, 304], 304), (304, [304, 302]), ([302, 301], 2.1), ([2.1, 2], 2), ([302, 303], 2.1), ([2.1, 2], [2, 1]), ([1, 101], [101, 302])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[CH:1][c:2]1[cH:3][nH:4][cH:5][n:6]1.[NH2:7][CH:8]1[CH2:9][CH2:10][N:11]([CH2:12][c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[CH2:19][CH2:20]1>>[CH2:1]([c:2]1[cH:3][nH:4][cH:5][n:6]1)[NH:7][CH:8]1[CH2:9][CH2:10][N:11]([CH2:12][c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[CH2:19][CH2:20]1,[NH2:7][CH:8]1[CH2:9][CH2:10][N:11]([CH2:12][c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[CH2:19][CH2:20]1.[O:101]=[CH:1][c:2]1[cH:3][nH:4][cH:5][n:6]1.[H+:301].[BH3-:302]C#N.[Na+]>>[CH2:1]([c:2]1[cH:3][nH:4][cH:5][n:6]1)[NH:7][CH:8]1[CH2:9][CH2:10][N:11]([CH2:12][c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[CH2:19][CH2:20]1,reductive_amination,"[(7, 1), ([1, 101], 301), (101, 7.1), ([7.1, 7], 7), (7, [7, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 7], 7)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[N:1]#[C:2][c:3]1[cH:4][cH:5][s:6][c:7]1[NH2:8].[O:9]=[C:10]=[N:11][C:12](=[O:13])[c:14]1[cH:19][cH:18][cH:17][cH:16][cH:15]1>>[N:1]#[C:2][c:3]1[cH:4][cH:5][s:6][c:7]1[NH:8][C:10](=[O:9])[NH:11][C:12](=[O:13])[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1,[O:9]=[C:10]=[N:11][C:12](=[O:13])[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1.[N:1]#[C:2][c:3]1[cH:4][cH:5][s:6][c:7]1[NH2:8]>>[N:1]#[C:2][c:3]1[cH:4][cH:5][s:6][c:7]1[NH:8][C:10](=[O:9])[NH:11][C:12](=[O:13])[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1,nucleophilic_attack_to_iso(thio)cyanate,"[(8, 10), ([10, 9], 9), (9, 8.1), ([8.1, 8], 8), (9, [9, 10]), ([10, 11], 11), (11, 9.1), ([9.1, 9], 9)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[C:1]1[CH2:11][CH2:10][CH:4]([n:5]2[cH:6][cH:7][n:8][n:9]2)[CH2:3][CH2:2]1.[CH3:12][O:13][C:14](=[O:15])[c:16]1[s:17][c:18]([C:19]#[C:20][C:21]([CH3:22])([CH3:23])[CH3:24])[cH:25][c:26]1[NH2:27]>>[CH:1]1([NH:27][c:26]2[c:16]([C:14]([O:13][CH3:12])=[O:15])[s:17][c:18]([C:19]#[C:20][C:21]([CH3:22])([CH3:23])[CH3:24])[cH:25]2)[CH2:2][CH2:3][CH:4]([n:5]2[cH:6][cH:7][n:8][n:9]2)[CH2:10][CH2:11]1,[CH3:12][O:13][C:14](=[O:15])[c:16]1[s:17][c:18]([C:19]#[C:20][C:21]([CH3:22])([CH3:23])[CH3:24])[cH:25][c:26]1[NH2:27].[O:101]=[C:1]1[CH2:2][CH2:3][CH:4]([n:5]2[cH:6][cH:7][n:8][n:9]2)[CH2:10][CH2:11]1.[H+:301].[BH3-:302]C#N.[Na+]>>[CH:1]1([NH:27][c:26]2[c:16]([C:14]([O:13][CH3:12])=[O:15])[s:17][c:18]([C:19]#[C:20][C:21]([CH3:22])([CH3:23])[CH3:24])[cH:25]2)[CH2:2][CH2:3][CH:4]([n:5]2[cH:6][cH:7][n:8][n:9]2)[CH2:10][CH2:11]1,reductive_amination,"[(27, 1), ([1, 101], 301), (101, 27.1), ([27.1, 27], 27), (27, [27, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 27], 27)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
